US07645771B2
Preparation of 4-chloro-2-fluoro-5-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)carbonyl]-N-isopropylbenzenesulfonamide
0.290 g (0.65 mmol) 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole and 0.288 g (0.975 mmol) 2-chloro-4-fluoro-5-[(isopropylamino)sulfonyl]benzoic acid were combined following the HATU general procedure in Example 5. This compound was purified by reverse phase chromatography on a 0-100% gradient of 0.1% TFA in water in acetonitrile. 0.196 g obtained (42% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.09-8.19 (m, 1H), 7.76-7.99 (m, 2H), 7.38-7.55 (m, 4H), 7.25-7.31 (m, 1H), 7.07-7.20 (m, 3H), 4.52-4.62 (m, 1H), 3.92-4.01 (m, 1H), 3.29-3.43 (m, 6H), 3.01-3.11 (m, 1H), 2.76 (s, 1H), 2.47-2.51 (m, 2H), 2.36-2.45 (m, 1H), 1.78-2.04 (m, 12H), 1.25-1.32 (m, 3H), 0.99-1.07 (m, 6H).

reactant | 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 0.65 mmol, 0.290 g | FC=1C=C(C=CC1)C1(CCNCC1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C28H35FN4
reactant | 2-chloro-4-fluoro-5-[(isopropylamino)sulfonyl]benzoic acid | 0.975 mmol, 0.288 g | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NC(C)C | C10H11ClFNO4S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 4-chloro-2-fluoro-5-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)carbonyl]-N-isopropylbenzenesulfonamide | 42% yield | ClC1=CC(=C(C=C1C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)S(=O)(=O)NC(C)C)F | C38H44ClF2N5O3S
